US07868188B2
N-{5-[5-(4-Methoxyphenylsulfonylamino)pyridin-2-yl]-4-methyl-1,3-thiazol-2-yl}acetamide
Using an analogous procedure to that described in Example 83, N-[5-(5-aminopyridin-2-yl)-4-methyl-1,3-thiazol-2-yl]acetamide was reacted with 4-methoxyphenylsulfonyl chloride to give the title compound; 1H NMR Spectrum: (DMSOd6) 2.13 (s, 3H), 2.47 (s, 3H), 3.81 (s, 3H), 7.09 (d, 2H), 7.55 (m, 2H), 7.73 (d, 2H), 8.26 (m, 1H), 10.42 (s, 1H), 12.05 (s, 1H); Mass Spectrum: M+H+ 419.

reactant | N-[5-(5-aminopyridin-2-yl)-4-methyl-1,3-thiazol-2-yl]acetamide | NC=1C=CC(=NC1)C1=C(N=C(S1)NC(C)=O)C | C11H12N4OS
reactant | 4-methoxyphenylsulfonyl chloride | COC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO3S
product | N-{5-[5-(4-Methoxyphenylsulfonylamino)pyridin-2-yl]-4-methyl-1,3-thiazol-2-yl}acetamide | COC1=CC=C(C=C1)S(=O)(=O)NC=1C=CC(=NC1)C1=C(N=C(S1)NC(C)=O)C | C18H18N4O4S2
